US08466181B2
b) 1-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]-triazol-4-yl]-ethanone
To a suspension of 4-(4-fluoro-phenyl)-1-methyl-1H-[1,2,3]triazole (3.54 g, 20.0 mmol) in DME (52 mL) was added n-BuLi (1.6 M in hexane, 15.0 mL, 24.0 mmol) dropwise at −75° C. The mixture was allowed to warm up to −35° C. and was stirred at −35° C. for 1 h. The reaction mixture was cooled again to −78° C. and a light green suspension of CuCN (1.79 g, 20.0 mmol) and LiCl (1.70 g, 40.0 mmol) in THF (26 ml) was added rapidly while stirring at −78° C. After 1 h the mixture was allowed to warm up to −35° C. and acetyl chloride (7.10 mL, 100.0 mmol) was added dropwise at this temperature. Then the reaction mixture was stirred at room temperature for 2 h and then poured carefully into aqueous saturated sodium carbonate solution (150 mL) and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (2.2 g, 50%) as a yellow oil. MS: m/e=220.3 [M+H]+.

reactant | 4-(4-fluoro-phenyl)-1-methyl-1H-[1,2,3]triazole | 20.0 mmol, 3.54 g | FC1=CC=C(C=C1)C=1N=NN(C1)C | C9H8FN3
reactant | n-BuLi | 24.0 mmol, 1.6 M, 15.0 mL | [Li]CCCC
reactant | CuCN | 20.0 mmol, 1.79 g | C(#N)[Cu]
reactant | LiCl | 40.0 mmol, 1.70 g | [Li+].[Cl-]
reactant | acetyl chloride | 100.0 mmol, 7.10 mL | C(C)(=O)Cl | C2H3ClO
reactant | sodium carbonate | 150 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 52 mL | COCCOC | C4H10O2
solvent | THF | 26 ml | C1CCOC1 | C4H8O
product | 1-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]-triazol-4-yl]-ethanone | 2.2 g, 50% | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C(C)=O | C11H10FN3O
